US07932272B2
5-(3-Chloro-phenoxy)-thiophene-2-carbonitrile
5-Nitro-thiophene-2-carbonitrile (5.00 g, 32.5 mmol), 3-chloro-phenol (6.90 mL, 65.0 mmol) and potassium carbonate (13.4 g, 97.5 mmol) were suspended in dimethylsulfoxide (50 mL), and the mixture was stirred at 60° C. for 4 hours. Water was added to the reaction mixture at 0° C., which was then extracted with ethyl acetate, the organic layer was washed with water twice, and further washed with brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by NH silica gel silica gel column chromatography (hexane:ethyl acetate=20:1), and the title compound (5.56 g, 23.6 mmol, 73%) was obtained as a pale yellow oil.

reactant | 5-Nitro-thiophene-2-carbonitrile | 32.5 mmol, 5.00 g | [N+](=O)([O-])C1=CC=C(S1)C#N | C5H2N2O2S
reactant | 3-chloro-phenol | 65.0 mmol, 6.90 mL | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | potassium carbonate | 97.5 mmol, 13.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 5-(3-Chloro-phenoxy)-thiophene-2-carbonitrile | 23.6 mmol, 5.56 g, 73% | ClC=1C=C(OC2=CC=C(S2)C#N)C=CC1 | C11H6ClNOS
